US08957080B2
A solution of sodium nitrite (14.4 g, 208.70 mmol, 1.98 equiv) in water (500 mL) was added dropwise into a solution of 4-(3,4-dichlorophenoxy)-3-methoxyaniline (30 g, 105.58 mmol, 1.00 equiv) in sulfuric acid (1000 mL) with stirring at 0° C. and the mixture was stirred for 30 min at 0° C. The above mixture was added dropwise to a solution of potassium iodide (1000 mL, 5%) in water with stirring at 50° C. The reaction was completed immediately. The reaction mixture was cooled to room temperature, extracted with 3×500 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×500 mL of saturated aqueous sodium bicarbonate and 3×500 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum to give 24 g (crude) of 1,2-dichloro-4-(4-iodo-2-methoxyphenoxy)benzene as red oil.

reactant | sodium nitrite | 208.70 mmol, 14.4 g, 1.98 equiv | N(=O)[O-].[Na+]
reactant | 4-(3,4-dichlorophenoxy)-3-methoxyaniline | 105.58 mmol, 30 g, 1.00 equiv | ClC=1C=C(OC2=C(C=C(N)C=C2)OC)C=CC1Cl | C13H11Cl2NO2
reactant | potassium iodide | 1000 mL | [I-].[K+]
solvent | water | 500 mL | O | H2O
solvent | sulfuric acid | 1000 mL | S(O)(O)(=O)=O | H2O4S
product | 1,2-dichloro-4-(4-iodo-2-methoxyphenoxy)benzene | 24 g | ClC1=C(C=C(C=C1)OC1=C(C=C(C=C1)I)OC)Cl | C13H9Cl2IO2
